US06515021B1
(b) 2-Methoxy-5-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydro-2-naphthyl) benzaldehyde
In a similar manner to Example 10(b), by reaction of 2 g (6.2 mmol) of 2-hydroxy-5-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydro-2-naphthyl) benzaldehyde with 425 μl (6.8 mmol) of iodomethane, 1.68 g (88%) of the expected product are obtained.

reactant | 2-hydroxy-5-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydro-2-naphthyl) benzaldehyde | 6.2 mmol, 2 g | OC1=C(C=O)C=C(C=C1)C1=CC=2C(CCC(C2C=C1C)(C)C)(C)C | C22H26O2
reactant | iodomethane | 6.8 mmol, 425 μl | IC | CH3I
product | 2-Methoxy-5-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydro-2-naphthyl) benzaldehyde | 1.68 g, 88% | COC1=C(C=O)C=C(C=C1)C1=CC=2C(CCC(C2C=C1C)(C)C)(C)C | C23H28O2
